US05508296
A 2.23 g portion of 2,4-dioxo-5-[(p-hydroxyphenyl)-methyl]thiazolidine was dissolved in 25 ml of dimethylformamide, and the solution was mixed with 0.8 g of sodium hydride and maintained at 60° C. for 3 hours. Under cooling with ice water, 1.32 g of p-xylylene dibromide was added to the solution, and the mixture was incubated at room temperature for 3 hours and then at 80° C. for 3 hours. A 100 ml portion of water and 100 ml of ethyl acetate were added to the reaction mixture to dissolve insoluble contents, and the resulting organic layer was collected and washed with water, followed by distillation to remove ethyl acetate. Thereafter, the resulting residue was subjected to silica gel column chromatography (eluent: chloroform) to obtain 1,4-bis[[4-[(2,4-dioxo-5-thiazolidinyl)methyl]phenoxy]methyl]benzene.

reactant | 2,4-dioxo-5-[(p-hydroxyphenyl)-methyl]thiazolidine | O=C1SC(C(N1)=O)CC1=CC=C(C=C1)O | C10H9NO3S
reactant | sodium hydride | 0.8 g | [H-].[Na+]
reactant | p-xylylene dibromide | 1.32 g | C1(=CC=C(C=C1)CBr)CBr | C8H8Br2
reactant | water | O | H2O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1,4-bis[[4-[(2,4-dioxo-5-thiazolidinyl)methyl]phenoxy]methyl]benzene | O=C1SC(C(N1)=O)CC1=CC=C(OCC2=CC=C(C=C2)COC2=CC=C(C=C2)CC2C(NC(S2)=O)=O)C=C1 | C28H24N2O6S2
